US07696223B2
c) 4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-pyridin-2-yl-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester (747 mg, 1.49 mmol), tetrabutyltin (717 μL, 2.24 mmol) and bis(triphenylphosphine)palladium(II) dichloride (105 mg, 0.15 mmol) in dimethylformamide (6 mL) was stirred at 130° C. for 5 h before it was cooled to room temperature, quenched with water, filtered. The filtrate was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a white solid (405 mg): MS: (+) m/z 522.27 (M+Na+).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | 1.49 mmol, 747 mg | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | tetrabutyltin | 2.24 mmol, 717 μL | C(CCC)[Sn](CCCC)(CCCC)CCCC
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.15 mmol, 105 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-pyridin-2-yl-thiazole-5-carboxylic acid ethyl ester | 405 mg | C(C)OC(=O)C1=C(N=C(S1)C1=NC=CC=C1)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C25H29N3O6S
